US04835180
(a) 6-Bromo-N-(4-hydroxyphenyl)hexanamide [IV; R1 =R2 =R3 =H, X=Br, n=6]
was prepared in 88% yield from 148.4 g (1.36 mol) of p-aminophenol and 145 g (0.68 mol) of 6-bromohexanoyl chloride according to the procedure of Example 1, part a, except that the addition was made at ambient temperature and the reaction was refluxed one hour, mp 124°-125° C.

reactant | p-aminophenol | 1.36 mol, 148.4 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 6-bromohexanoyl chloride | 0.68 mol, 145 g | BrCCCCCC(=O)Cl | C6H10BrClO
product | 6-Bromo-N-(4-hydroxyphenyl)hexanamide | 88% yield | BrCCCCCC(=O)NC1=CC=C(C=C1)O | C12H16BrNO2
